US08729105B2
Preparation of 5-(Bromomethyl)-3-(trifluoromethyl)isoxazole
To a solution of (3-(trifluoromethyl)isoxazol-5-yl)methanol (2.5 g, 15 mmol) in dimethylformamide (25 mL) was added drop wise tribromophosphine (4.64 g 17.1 mmol, 1.15 eq) and the mixture was stirred at 0° C. for 15 min and at ambient temperature for 2 h. The reaction mixture was partitioned between 10% sodium bicarbonate and dichloromethane. The phases were separated and the organic phase was washed with water and passed over a plug of silica eluting with dichloromethane. The UV active product fractions were collected and evaporated to yield the title compound as colorless oil (2.04 g 59.3%), MS 229 and 231(M)+.

reactant | (3-(trifluoromethyl)isoxazol-5-yl)methanol | 15 mmol, 2.5 g | FC(C1=NOC(=C1)CO)(F)F | C5H4F3NO2
reactant | tribromophosphine | 17.1 mmol, 4.64 g, 1.15 eq | BrP(Br)Br | Br3P
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | 5-(Bromomethyl)-3-(trifluoromethyl)isoxazole | 2.04 g, 59.3% | BrCC1=CC(=NO1)C(F)(F)F | C5H3BrF3NO
